US04975451
A solution of 11.8 grams (0.05 mole) of 4-fluoro--3-phenoxyphenylmethyl chloride and 13.1 grams (0.05 mole) of triphenylphosphine in 150 mL of dry tetrahydrofuran was stirred for 72 hours. After this time the reaction mixture was concentrated under reduced pressure to a residual solid. The residue was stirred with diethyl ether and filtered to collect the solid. The solid was washed repeatedly with diethyl ether and dried yielding 15.0 grams of 4-fluoro-3-phenoxyphenylmethyltriphenylphosphonium chloride.

reactant | 4-fluoro--3-phenoxyphenylmethyl chloride | 0.05 mole, 11.8 grams | FC1=C(C=C(C=C1)CCl)OC1=CC=CC=C1 | C13H10ClFO
reactant | triphenylphosphine | 0.05 mole, 13.1 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-fluoro-3-phenoxyphenylmethyltriphenylphosphonium chloride | 15.0 grams | [Cl-].FC1=C(C=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=CC=CC=C1 | InChI=1S/C31H25FOP.ClH/c32-30-22-21-25(23-31(30)33-26-13-5-1-6-14-26)24-34(27-15-7-2-8-16-27,28-17-9-3-10-18-28)29-19-11-4-12-20-29;/h1-23H,24H2;1H/q+1;/p-1
